US04237160
3-Hydroxymethyldibenzo[b,f]thiepin-5,5-dioxide
Mix 2.8 gm. of dibenzo[b,f]thiepin-3-carboxylic acid-5,5-dioxide, 50 ml. of tetrahydrofuran, and 30 ml. of 1 N diborane in tetrahydrofuran. Stir at room temperature for 1 hour. Dilute the reaction mixture with water, and extract into ether. Evaporate the ether extract to dryness. Stir the residue in ether, and filter to obtain the title product (m.p., 156°-158° C.).

reactant | dibenzo[b,f]thiepin-3-carboxylic acid-5,5-dioxide | C1=CC(=CC=2S(C3=C(C=CC21)C=CC=C3)(=O)=O)C(=O)O | C15H10O4S
reactant | diborane | 1 N | B#B | B2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Hydroxymethyldibenzo[b,f]thiepin-5,5-dioxide | OCC=1C=CC2=C(S(C3=C(C=C2)C=CC=C3)(=O)=O)C1 | C15H12O3S
